US04168267
Trimethylsilylbromide (15 ml., 0.1 mole) is added portionwise to methylphenyl phosphinic acid, phenethyl ester (15.2 g.,0.1 mole) at a rate to maintain reflux temperature. Following the addition, the mixture is stirred one hour at ambient temperature. The volatiles are removed in vacuo. The addition of water (10 ml.) to the liquid residue (20.6 g.) results in the separation of a white solid. The mixture is stirred at ambient temperature overnight, followed by filtration, with a recovery of 14 g. of solid. It is recrystallized from dichloromethane (80 ml.) to give methylphenylphosphinic acid, 9.9 g. (72%), m.p. 133°-135°.

reactant | Trimethylsilylbromide | 0.1 mole, 15 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | methylphenyl phosphinic acid, phenethyl ester | 0.1 mole, 15.2 g | CP(OCCC1=CC=CC=C1)(=O)C1=CC=CC=C1 | C15H17O2P
product | methylphenylphosphinic acid | CP(O)(=O)C1=CC=CC=C1 | C7H9O2P
